US08877801B2
To a 5 mL microwave vial was added a solution of 6-methoxybenzo[b]thiophene (400 mg, 2.44 mmol) in anhydrous DMA (3 mL) followed by 1-bromo-4-fluorobenzene (448 mg, 2.56 mmol), chloro[2-(dicyclohexylphosphino)-3,6-dimethoxy-2′,4′,6′-tri-1-propyl-1,1′-biphenyl][2-(2-aminoethyl)phenyl]palladium(II) (BrettPhos palladacycle 1st generation, 97 mg, 0.12 mmol), trimethylacetic acid (746 mg, 7.31 mmol) and potassium carbonate (1.01 g, 7.31 mmol). The microwave vial was sealed, purged with nitrogen and subjected to microwave irradiation at 150° C. for 2 h. Upon completion the reaction mixture was diluted with water and extracted with EtOAc. The combined organic layers were then washed with brine, dried over anhydrous MgSO4, filtered and concentrated in vacuo. The resulting crude material was purified via trituration 2× with heptane and the remaining triturate (containing some product) was concentrated and purified by column chromatography (SiO2, 0-30% EtOAc/Heptane) to afford 2-(4-fluorophenyl)-6-methoxybenzo[b]thiophene (340 mg, 1.32 mmol, 54% yield). 1H NMR (400 MHz, (CD3)2SO) δ ppm=3.79-3.93 (m, 3H), 7.01 (dd, J=8.59, 2.53 Hz, 1H), 7.24-7.42 (m, 2H), 7.56 (d, J=2.53 Hz, 1H), 7.67-7.86 (m, 4H). LC/MS (m/z, MH+): 258.8.

reactant | 6-methoxybenzo[b]thiophene | 2.44 mmol, 400 mg | COC=1C=CC2=C(SC=C2)C1 | C9H8OS
reactant | 1-bromo-4-fluorobenzene | 2.56 mmol, 448 mg | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | trimethylacetic acid | 7.31 mmol, 746 mg | CC(C(=O)O)(C)C | C5H10O2
reactant | potassium carbonate | 7.31 mmol, 1.01 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
product | 2-(4-fluorophenyl)-6-methoxybenzo[b]thiophene | 1.32 mmol, 340 mg, 54% yield | FC1=CC=C(C=C1)C1=CC2=C(S1)C=C(C=C2)OC | C15H11FOS
